US07259183B2
To a solution of 3.27 g of 5-fluoro-2-iodo-4-trifluoromethyl-aniline (10.7 mmol) in 20 ml triethylamine were added 3763 mg of Pd(PPh3)2Cl2 (0.5 mmol), 102 mg of CuI (0.5 mmol) and 1.63 ml of ethinyltrimethylsilane (11.8 mmol). The reaction mixture was stirred over night at rt before most of the triethylamine was removed under reduced pressure. Then DCM was added and the resulting suspension was filtered. The filtrate was then concentrated and the residue purified by chromatography (silica gel; cyclohexane/EtOAc 9:1) to yield 2.83 g (96%) of 5-fluoro-4-trifluoromethyl-2-trimethylsilanylethynyl-phenylamine contaminated with triethylamine as a dark red liquid. 1H-NMR (CDCl3, 300 MHz): δ 0.26 (s, 9H), 4.68 (br s, 2H), 6.44 (d, J=12 Hz, 1H), 7.51 (d, J=8 Hz, 1H).

reactant | 5-fluoro-2-iodo-4-trifluoromethyl-aniline | 10.7 mmol, 3.27 g | FC=1C(=CC(=C(N)C1)I)C(F)(F)F | C7H4F4IN
reactant | ethinyltrimethylsilane | 11.8 mmol, 1.63 ml | C(#C)[Si](C)(C)C | C5H10Si
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 0.5 mmol, 3763 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.5 mmol, 102 mg | [Cu]I
product | 5-fluoro-4-trifluoromethyl-2-trimethylsilanylethynyl-phenylamine | 2.83 g, 96% | FC=1C(=CC=C(C1)NC#C[Si](C)(C)C)C(F)(F)F | C12H13F4NSi
